US08633175B2
5-{4-[(2-chloroethyl)oxy]phenyl}-2-thiophenecarboxamide
To a suspension of ammonium chloride (2.12 g, 39.6 mmol) in 10 ml of toluene at 5° C. was added dropwise 19.8 ml of 2M trimethylaluminum in toluene solution. The mixture was stirred for 2 h at the room temperature and ethyl 5-(4-hydroxyphenyl)-2-thiophene carboxylate (Intermediate KK-1-1) (1.98 g, 7.03 mmol) was added. The resulting mixture was heated at 55-60° C. for 15 h, cooled to 5° C. and quenched with ethanol (10 ml). All solvents were removed in vacuo and the residue was treated with 80 ml of 0.5M HCl solution. A yellow solid was collected by filtration, washed with water and air-dried (1.64 g). The product was added to a mixture of 2-chloroethyl p-toluenesulfonate (4.07 ml, 22.5 mmol) and potassium carbonate (3.11 g, 22.5 mmol) in 100 ml of acetonitrile. After heating at reflux for 40 h, the reaction mixture was filtered to remove the solids, concentrated to dryness in vacuo and purified by silica gel column chromatography using Hexanes and EtOAc to give the title compound as a light yellow solid.

reactant | ammonium chloride | 39.6 mmol, 2.12 g | [Cl-].[NH4+]
reactant | trimethylaluminum | 2M, 19.8 ml | C[Al](C)C
reactant | ethyl 5-(4-hydroxyphenyl)-2-thiophene carboxylate | 7.03 mmol, 1.98 g | OC1=CC=C(C=C1)C1=CC=C(S1)C(=O)OCC | C13H12O3S
reactant | 2-chloroethyl p-toluenesulfonate | 22.5 mmol, 4.07 ml | C1(=CC=C(C=C1)S(=O)(=O)OCCCl)C | C9H11ClO3S
reactant | potassium carbonate | 22.5 mmol, 3.11 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 5-{4-[(2-chloroethyl)oxy]phenyl}-2-thiophenecarboxamide | ClCCOC1=CC=C(C=C1)C1=CC=C(S1)C(=O)N | C13H12ClNO2S
